US03971819
3-Benzylamino-4-isopropylamino-5-sulphamyl-benzoic acid
A mixture of 3-amino-4-isopropylamino-5-sulphamyl-benzoic acid (2.62 g), benzyl bromide (4.28 g), and anhydrous ethanol (25 ml) was refluxed for 24 hours. The reaction mixture was evaporated in vacuo. 1N sodium hydroxide (30 ml) was added, and the mixture was heated on a steam bath for 1 hour. After cooling and extracting with diethyl ether, the aqueous layer was adjusted to a pH of 3 by addition of 4N hydrochloric acid. The precipitated 3-benzylamino-4-isopropylamino-5-sulphamyl-benzoic acid was collected by suction and recrystallized from aqueous ethanol. The melting point was 233°-234°C.

reactant | 3-amino-4-isopropylamino-5-sulphamyl-benzoic acid | 2.62 g | NC=1C=C(C(=O)O)C=C(C1NC(C)C)S(N)(=O)=O | C10H15N3O4S
reactant | benzyl bromide | 4.28 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Benzylamino-4-isopropylamino-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1NC(C)C)S(N)(=O)=O | C17H21N3O4S
